*
C1 N315 N314 1µ
C2 N316 N315 2µ
C3 N317 N316 3µ
C4 N318 N317 4µ
C5 N319 N318 5µ
R1 N314 N173 100
C6 N320 N319 1µ
C7 N321 N320 2µ
C8 N322 N321 3µ
C9 N323 N322 4µ
C10 0 N323 5µ
V1 0 N001 SINE(0 20 1k)
C11 N302 N303 1µ
C12 N301 N302 2µ
C13 N300 N301 3µ
C14 N299 N300 4µ
C15 N298 N299 5µ
R2 N303 0 100
C16 N297 N298 1µ
C17 N296 N297 2µ
C18 N295 N296 3µ
C19 N294 N295 4µ
C20 N173 N294 5µ
C21 N275 N274 1µ
C22 N276 N275 2µ
C23 N277 N276 3µ
C24 N278 N277 4µ
C25 N279 N278 5µ
R3 N274 N173 100
C26 N280 N279 1µ
C27 N281 N280 2µ
C28 N282 N281 3µ
C29 N283 N282 4µ
C30 0 N283 5µ
C31 N262 N263 1µ
C32 N261 N262 2µ
C33 N260 N261 3µ
C34 N259 N260 4µ
C35 N258 N259 5µ
R4 N263 0 100
C36 N257 N258 1µ
C37 N256 N257 2µ
C38 N255 N256 3µ
C39 N254 N255 4µ
C40 N173 N254 5µ
C41 N235 N234 1µ
C42 N236 N235 2µ
C43 N237 N236 3µ
C44 N238 N237 4µ
C45 N239 N238 5µ
R5 N234 N173 100
C46 N240 N239 1µ
C47 N241 N240 2µ
C48 N242 N241 3µ
C49 N243 N242 4µ
C50 0 N243 5µ
C51 N222 N223 1µ
C52 N221 N222 2µ
C53 N220 N221 3µ
C54 N219 N220 4µ
C55 N218 N219 5µ
R6 N223 0 100
C56 N217 N218 1µ
C57 N216 N217 2µ
C58 N215 N216 3µ
C59 N214 N215 4µ
C60 N173 N214 5µ
C61 N195 N194 1µ
C62 N196 N195 2µ
C63 N197 N196 3µ
C64 N198 N197 4µ
C65 N199 N198 5µ
R7 N194 N173 100
C66 N200 N199 1µ
C67 N201 N200 2µ
C68 N202 N201 3µ
C69 N203 N202 4µ
C70 0 N203 5µ
C71 N182 N183 1µ
C72 N181 N182 2µ
C73 N180 N181 3µ
C74 N179 N180 4µ
C75 N178 N179 5µ
R8 N183 0 100
C76 N177 N178 1µ
C77 N176 N177 2µ
C78 N175 N176 3µ
C79 N174 N175 4µ
C80 N173 N174 5µ
C81 N305 N304 1µ
C82 N306 N305 2µ
C83 N307 N306 3µ
C84 N308 N307 4µ
C85 N309 N308 5µ
R9 N304 N001 100
C86 N310 N309 1µ
C87 N311 N310 2µ
C88 N312 N311 3µ
C89 N313 N312 4µ
C90 N173 N313 5µ
C91 N292 N293 1µ
C92 N291 N292 2µ
C93 N290 N291 3µ
C94 N289 N290 4µ
C95 N288 N289 5µ
R10 N293 N173 100
C96 N287 N288 1µ
C97 N286 N287 2µ
C98 N285 N286 3µ
C99 N284 N285 4µ
C100 N001 N284 5µ
C101 N265 N264 1µ
C102 N266 N265 2µ
C103 N267 N266 3µ
C104 N268 N267 4µ
C105 N269 N268 5µ
R11 N264 N001 100
C106 N270 N269 1µ
C107 N271 N270 2µ
C108 N272 N271 3µ
C109 N273 N272 4µ
C110 N173 N273 5µ
C111 N252 N253 1µ
C112 N251 N252 2µ
C113 N250 N251 3µ
C114 N249 N250 4µ
C115 N248 N249 5µ
R12 N253 N173 100
C116 N247 N248 1µ
C117 N246 N247 2µ
C118 N245 N246 3µ
C119 N244 N245 4µ
C120 N001 N244 5µ
C121 N225 N224 1µ
C122 N226 N225 2µ
C123 N227 N226 3µ
C124 N228 N227 4µ
C125 N229 N228 5µ
R13 N224 N001 100
C126 N230 N229 1µ
C127 N231 N230 2µ
C128 N232 N231 3µ
C129 N233 N232 4µ
C130 N173 N233 5µ
C131 N212 N213 1µ
C132 N211 N212 2µ
C133 N210 N211 3µ
C134 N209 N210 4µ
C135 N208 N209 5µ
R14 N213 N173 100
C136 N207 N208 1µ
C137 N206 N207 2µ
C138 N205 N206 3µ
C139 N204 N205 4µ
C140 N001 N204 5µ
C141 N185 N184 1µ
C142 N186 N185 2µ
C143 N187 N186 3µ
C144 N188 N187 4µ
C145 N189 N188 5µ
R15 N184 N001 100
C146 N190 N189 1µ
C147 N191 N190 2µ
C148 N192 N191 3µ
C149 N193 N192 4µ
C150 N173 N193 5µ
C151 N171 N172 1µ
C152 N170 N171 2µ
C153 N169 N170 3µ
C154 N168 N169 4µ
C155 N167 N168 5µ
R16 N172 N173 100
C156 N166 N167 1µ
C157 N165 N166 2µ
C158 N164 N165 3µ
C159 N163 N164 4µ
C160 N001 N163 5µ
C161 N154 N153 1µ
C162 N155 N154 2µ
C163 N156 N155 3µ
C164 N157 N156 4µ
C165 N158 N157 5µ
R17 N153 N012 100
C166 N159 N158 1µ
C167 N160 N159 2µ
C168 N161 N160 3µ
C169 N162 N161 4µ
C170 0 N162 5µ
C171 N141 N142 1µ
C172 N140 N141 2µ
C173 N139 N140 3µ
C174 N138 N139 4µ
C175 N137 N138 5µ
R18 N142 0 100
C176 N136 N137 1µ
C177 N135 N136 2µ
C178 N134 N135 3µ
C179 N133 N134 4µ
C180 N012 N133 5µ
C181 N114 N113 1µ
C182 N115 N114 2µ
C183 N116 N115 3µ
C184 N117 N116 4µ
C185 N118 N117 5µ
R19 N113 N012 100
C186 N119 N118 1µ
C187 N120 N119 2µ
C188 N121 N120 3µ
C189 N122 N121 4µ
C190 0 N122 5µ
C191 N101 N102 1µ
C192 N100 N101 2µ
C193 N099 N100 3µ
C194 N098 N099 4µ
C195 N097 N098 5µ
R20 N102 0 100
C196 N096 N097 1µ
C197 N095 N096 2µ
C198 N094 N095 3µ
C199 N093 N094 4µ
C200 N012 N093 5µ
C201 N074 N073 1µ
C202 N075 N074 2µ
C203 N076 N075 3µ
C204 N077 N076 4µ
C205 N078 N077 5µ
R21 N073 N012 100
C206 N079 N078 1µ
C207 N080 N079 2µ
C208 N081 N080 3µ
C209 N082 N081 4µ
C210 0 N082 5µ
C211 N061 N062 1µ
C212 N060 N061 2µ
C213 N059 N060 3µ
C214 N058 N059 4µ
C215 N057 N058 5µ
R22 N062 0 100
C216 N056 N057 1µ
C217 N055 N056 2µ
C218 N054 N055 3µ
C219 N053 N054 4µ
C220 N012 N053 5µ
C221 N034 N033 1µ
C222 N035 N034 2µ
C223 N036 N035 3µ
C224 N037 N036 4µ
C225 N038 N037 5µ
R23 N033 N012 100
C226 N039 N038 1µ
C227 N040 N039 2µ
C228 N041 N040 3µ
C229 N042 N041 4µ
C230 0 N042 5µ
C231 N021 N022 1µ
C232 N020 N021 2µ
C233 N019 N020 3µ
C234 N018 N019 4µ
C235 N017 N018 5µ
R24 N022 0 100
C236 N016 N017 1µ
C237 N015 N016 2µ
C238 N014 N015 3µ
C239 N013 N014 4µ
C240 N012 N013 5µ
C241 N144 N143 1µ
C242 N145 N144 2µ
C243 N146 N145 3µ
C244 N147 N146 4µ
C245 N148 N147 5µ
R25 N143 N001 100
C246 N149 N148 1µ
C247 N150 N149 2µ
C248 N151 N150 3µ
C249 N152 N151 4µ
C250 N012 N152 5µ
C251 N131 N132 1µ
C252 N130 N131 2µ
C253 N129 N130 3µ
C254 N128 N129 4µ
C255 N127 N128 5µ
R26 N132 N012 100
C256 N126 N127 1µ
C257 N125 N126 2µ
C258 N124 N125 3µ
C259 N123 N124 4µ
C260 N001 N123 5µ
C261 N104 N103 1µ
C262 N105 N104 2µ
C263 N106 N105 3µ
C264 N107 N106 4µ
C265 N108 N107 5µ
R27 N103 N001 100
C266 N109 N108 1µ
C267 N110 N109 2µ
C268 N111 N110 3µ
C269 N112 N111 4µ
C270 N012 N112 5µ
C271 N091 N092 1µ
C272 N090 N091 2µ
C273 N089 N090 3µ
C274 N088 N089 4µ
C275 N087 N088 5µ
R28 N092 N012 100
C276 N086 N087 1µ
C277 N085 N086 2µ
C278 N084 N085 3µ
C279 N083 N084 4µ
C280 N001 N083 5µ
C281 N064 N063 1µ
C282 N065 N064 2µ
C283 N066 N065 3µ
C284 N067 N066 4µ
C285 N068 N067 5µ
R29 N063 N001 100
C286 N069 N068 1µ
C287 N070 N069 2µ
C288 N071 N070 3µ
C289 N072 N071 4µ
C290 N012 N072 5µ
C291 N051 N052 1µ
C292 N050 N051 2µ
C293 N049 N050 3µ
C294 N048 N049 4µ
C295 N047 N048 5µ
R30 N052 N012 100
C296 N046 N047 1µ
C297 N045 N046 2µ
C298 N044 N045 3µ
C299 N043 N044 4µ
C300 N001 N043 5µ
C301 N024 N023 1µ
C302 N025 N024 2µ
C303 N026 N025 3µ
C304 N027 N026 4µ
C305 N028 N027 5µ
R31 N023 N001 100
C306 N029 N028 1µ
C307 N030 N029 2µ
C308 N031 N030 3µ
C309 N032 N031 4µ
C310 N012 N032 5µ
C311 N010 N011 1µ
C312 N009 N010 2µ
C313 N008 N009 3µ
C314 N007 N008 4µ
C315 N006 N007 5µ
R32 N011 N012 100
C316 N005 N006 1µ
C317 N004 N005 2µ
C318 N003 N004 3µ
C319 N002 N003 4µ
C320 N001 N002 5µ
.tran 0 1m 0 1u
.backanno
.end
